US03998958
The hydrochloride salt of 2-imino-1-methylpyrrolidine (6.73 g.; 0.05 mole) is converted to free base (4.0 g.; 0.05 mole -- assuming 100% conversion) by adding 5 ml. of 50% NaOH to an aqueous slurry (minimal amount of water) of the salt and benzene extraction. After drying over K2CO3, the benzene solution is stirred at room temperature and 16.79 g. (0.0472 mole) of 2,4,6-tribromophenylisocyanate [made according to the method of K. Inukai and Y. Maki, Kogyo Kagaku Zasshi, 70 (4), 491-4 (1967)] dissolved in anhydrous benzene, is added with stirrng. The reaction mixture is stirred for 2 hours and then the solvent is evaporated in vacuo to give a solid residue of 1-(1-methyl-2-pyrrolidylidene)-3-(2,4,6-tribromophenyl)urea. Recrystallizations from acetone yields the pure product, m.p. = 165°-167.5° C.

reactant | 2-imino-1-methylpyrrolidine | 0.05 mole, 6.73 g | N=C1N(CCC1)C | C5H10N2
reactant | 2,4,6-tribromophenylisocyanate | 0.0472 mole | BrC1=C(C(=CC(=C1)Br)Br)N=C=O | C7H2Br3NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(1-methyl-2-pyrrolidylidene)-3-(2,4,6-tribromophenyl)urea | CN1C(CCC1)=NC(=O)NC1=C(C=C(C=C1Br)Br)Br | C12H12Br3N3O
